* C:\users\evans\Desktop\FBR\Precharge\Sim_Precharge\Draft3.asc
* Generated by LTspice 24.1.5 for Windows.
R1 V v1 18k
R2 P001 V 75k
R3 V 0 8.6k
V1 P001 0 12
V2 NC_01 NC_02 10
R5 P002 P003 9.9k
V3 P003 0 110
V4 N001 0 12
X§U1 P002 0 N001 N002 NC_03 4N27
R4 v1 0 100k
.op
.lib 4N27.sub
.backanno
.end
