* C:\users\evans\Desktop\FBR\Precharge\Sim_Precharge\Draft4.asc
R1 P001 P002 1.2K
C1 P003 P001 1µf
V1 P002 0 12
D1 P003 0 D
.model D D
.lib C:\users\evans\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 20 startup
.backanno
.end
